US05888940
Ethyl 3-(4-chloro-6-fluorobenzothiazol-2-yl)acrylate
150 g (1.48 mol) of ethyl acrylate, 11.4 g (85 mmol) of copper (II) chloride and 11.4 g (0.11 mol) of tert-butyl nitrite were added to a solution of 12 g (59 mmol) of 2-amino-4-chloro-6-fluorobenzothiazole in 0.4 1 of acetonitrile. Stirring was carried out for 3 days, after which the mixture was acidified with dilute hydrochloric acid. The product was extracted with methyl tert-butyl ether, after which the extracts were dried over magnesium sulfate and finally evaporated down. Purification of the crude product was effected by means of column chromatography over silica gel (eluent: 19:1 cyclohexane/methyl tert-butyl ether). Yield: 9,0 g.

reactant | ethyl acrylate | 1.48 mol, 150 g | C(C=C)(=O)OCC | C5H8O2
reactant | tert-butyl nitrite | 0.11 mol, 11.4 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-4-chloro-6-fluorobenzothiazole | 59 mmol, 12 g | NC=1SC2=C(N1)C(=CC(=C2)F)Cl | C7H4ClFN2S
reactant | hydrochloric acid | Cl | ClH
catalyst | copper (II) chloride | 85 mmol, 11.4 g | [Cu](Cl)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl 3-(4-chloro-6-fluorobenzothiazol-2-yl)acrylate | ClC1=CC(=CC2=C1N=C(S2)C=CC(=O)OCC)F | C12H9ClFNO2S
